Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Dimetapp (brompheniramine-PPA)
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
___: ERCP
___: percutaneous cholangiogram, balloon sweep for stone 
removal, and placement of a percutaneous biliary drain 
 
History of Present Illness:
Patient is a ___ year old female with a history of gastric bypass 
in ___ at ___, CAD and CHF s/p ICD placement who 
presented to ___ with abdominal pain and is 
transferred to ___ for ERCP.

She began having RUQ pain radiating to the right 
neck/shoulder/back ___ days prior to admission. The pain was 
intermittent and not particularly severe for several days but 
today became severe, constant, sharp pain. She has had 
associated nausea, dry heaves, and decreased appetite. She 
denies any fevers but has had chills.

At the OSH she was found to have a 13mm stone in CBD with CBD 
measuring 15mm. Her TBili was 10 with elevated LFTs and normal 
lipase. She received morphine, zofran, cipro and flagyl prior to 
transfer. Her BP was in the ___ on transfer and responded to 
300cc NS.

On arrival to the ED here her vital signs were: 98.6, 102, 
103/56, 16, 96% on RA. Her labs here were signficant for AST 
146, ALT 143, AP 657, Tbili 11.5. Lactate is 1.1.

On arrival to the FICU, her vital signs were: 98.3, 68, 86/44, 
10 98% on RA. She complained of ___ R sided abdominal pain 
and nausea.
 
Past Medical History:
Gastric bypass in ___
Ventral hernia repairs
CAD s/p BMS in ___ and again in ___, ICD in ___
CHF (Echo in ___ with EF 40-45%, diastolic dysfunction, 
anteroseptal/apical hypokinesis)
NIDDM
HLD
Hypothyroidism
Hip replacement ___
Anemia (B12 deficiency)
Depression
 
Social History:
___
Family History:
Heart problems in both parents and in 2 brothers
 
Physical ___:
ADMISSION EXAM:
=================
General: Alert, oriented, no acute distress  
HEENT: Icteric sclera, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen: soft, tender over RUQ and epigastric area, 
non-distended, bowel sounds present, no rebound tenderness or 
guarding
GU: no foley
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Skin: jaundiced

DISCHARGE EXAM:
==================
General: no apparent distress, in bed
Vitals: 98.6, 106/67, 60, 18, 95% RA
Pain ___ 
EENT: sclerae icteric - slightly, MMM
Card: RR, nl rate, no MRG  
Resp: comfortable, CTAB 
GI: soft, ND, BS+; mildly tender in RUQ with deep palpation. No
rebound or guarding. Drain c/d/i
GU: No foley.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 11:30PM BLOOD WBC-14.7* RBC-3.83* Hgb-12.7 Hct-36.8 
MCV-96 MCH-33.0* MCHC-34.4 RDW-14.6 Plt ___
___ 11:30PM BLOOD Neuts-93.4* Lymphs-2.6* Monos-3.6 Eos-0.3 
Baso-0.1
___ 11:30PM BLOOD ___ PTT-27.6 ___
___ 11:30PM BLOOD Glucose-113* UreaN-12 Creat-0.6 Na-134 
K-4.5 Cl-102 HCO3-22 AnGap-15
___ 11:30PM BLOOD ALT-143* AST-146* AlkPhos-657* 
TotBili-11.5*
___ 11:30PM BLOOD Lipase-11
___ 11:30PM BLOOD cTropnT-<0.01
___ 11:30PM BLOOD Albumin-2.9* Calcium-7.9* Phos-3.2 Mg-1.7
___ 11:39PM BLOOD Lactate-1.1

DISCHARGE LABS:
===============
___ 02:50AM BLOOD WBC-6.9 RBC-3.35* Hgb-10.9* Hct-32.7* 
MCV-98 MCH-32.5* MCHC-33.3 RDW-15.0 Plt ___
___ 02:50AM BLOOD ___ PTT-31.1 ___
___ 02:50AM BLOOD Glucose-97 UreaN-7 Creat-0.7 Na-136 K-4.1 
Cl-105 HCO3-23 AnGap-12
___ 05:45AM BLOOD ALT-65* AST-36 AlkPhos-491* TotBili-2.6*
___ 02:50AM BLOOD Albumin-2.8* Calcium-7.9* Phos-2.8 Mg-2.1

IMAGING:
================
ECG ___: Atrio-ventricular sequential pacing with 
supraventricular premature
depolarizations. No previous tracing available for comparison.
PTBD ___: 
1. No baseline intrahepatic biliary dilatation.
2. 13 mm round, well-circumscribed filling defect in the common 
bile duct
compatible a choledocholith.
3. Multiple large filling defects in the gallbladder compatible 
with
cholelithiasis.
4. Patent cystic duct.
5. Final cholangiogram demonstrating patent biliary tree without 
residual
filling defect.

ERCP ___:
Normal mucosa in the esophagus
A single balloon assisted ERCP (SB-ERCP) was attempted using a 
cap at the tip of the enteroscope.
Evidence of previous surgery was seen.
The gastro-jejunal anastomosis was identified and it was normal.
The enteroscope was advanced until the jejuno-jejunal 
anastomosis was reached.
A tattoo was injected immediately beyond the common/efferent 
limb. There were no abnormalities visualized.
Subsequently, the presumed pancreatico-biliary limb was 
visualized.
Due to severe looping of the enteroscope, the ampulla and 
retrograde pylorus could not be reached and therefore the ERCP 
could not be performed.

MICROBIOLOGY:
===============
___ 12:55 am BLOOD CULTURE:  (Pending)
 
Brief Hospital Course:
___ with gastric bypass, CAD s/p stenting, CHF, DM, HLD, 
hypothyroidism, B12 deficiency, depression, who presents with 
RUQ abdominal pain, nausea, vomiting and was found to have 
choledocholithiasis and cholangitis. She underwent PTBD with 
balloon sweep for stone removal and placement of internal and 
external drain.

# Cholangitis:
# Choledocholithiasis:
She had evidence of cholangitis and choledocholithiasis. She had 
improving pain (not fully resolved at the time of discharge; 
however was improving), resolved nausea and vomiting. She was 
placed on cipro and flagyl for 7 day course total (following 
PTBD). She will need a CCY which she wishes to pursue closer to 
home (will need to be arranged by PCP). She will follow up with 
___ for further management of her drains. In addition, she will 
need repeat LFTs to ensure resolution of transaminitis. She was 
discharge with a limited number of oxycodone for pain, mostly at 
the site of PTBD insertion, but some RUQ and epigastric pain as 
well.

# Constipation: 
She was treated with aggressive bowel regimen with improvement 
in her bowel movements to normal.

# CAD s/p stents: 
Plavix was initially held for procedures. This was restarted 
after PTBD placement without issue. She was resumed on BB and 
statin as well.

# Chronic systolic and diastolic CHF:
Continued home lasix. Euvolemic at discharge.

# Anemia:
No evidence of bleed. Can pursue outpatient work up if 
necessary.

# Code status: Full code.

TRANSITIONAL ISSUES:
================
- ___ follow up
- repeat LFTs
- CCY as outpatient
- evaluation for resolution of abdominal pain
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carvedilol 3.125 mg PO BID 
2. Rosuvastatin Calcium 40 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Furosemide 40 mg PO DAILY 
5. Clopidogrel 75 mg PO DAILY 
6. OxycoDONE (Immediate Release)  ___ mg PO Frequency is 
Unknown 
7. TraZODone 50 mg PO HS:PRN insomnia 
8. Levothyroxine Sodium 75 mcg PO DAILY 
9. Lorazepam 1 mg PO DAILY 
10. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 

 
Discharge Medications:
1. Carvedilol 3.125 mg PO BID 
2. Clopidogrel 75 mg PO DAILY 
3. Furosemide 40 mg PO DAILY 
4. Levothyroxine Sodium 75 mcg PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. OxycoDONE (Immediate Release)  ___ mg PO Q6H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 6 hours Disp 
#*80 Tablet Refills:*0
7. Rosuvastatin Calcium 40 mg PO DAILY 
8. Lorazepam 1 mg PO DAILY 
9. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
10. TraZODone 50 mg PO HS:PRN insomnia 
11. Ciprofloxacin HCl 500 mg PO Q12H Duration: 4 Days 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth twice a day Disp 
#*8 Tablet Refills:*0
12. MetRONIDAZOLE (FLagyl) 500 mg PO TID Duration: 4 Days 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*12 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Choledocholithiasis
Cholangitis
Abdominal pain
Transaminitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with abdominal pain. This was due to a 
blockage in your bile duct. The GI team attempted ERCP but were 
unable to complete. You underwent interventional radiology 
procedure with removal of stone, and placement of drains (both 
internal and external drains). These were working well and your 
tests improved. You will have 4 more days of antibiotics 
(cirpofloxacin and flagyl). In addition, you will need to follow 
up with interventional radiology for further management of your 
drains. The interventional radiology team will contact you to 
arrange for follow up. Finally, you need to have your 
gallbladder removed. This can be done near your home. Please 
arrange this with your PCP. 

Of note, if you develop worsening pain, fevers, confusion or 
other worrisome symptoms please present to an emergency 
department. If you develop these symptoms you should uncap your 
external drain and connect to a bag.

You were prescribed oxycodone for pain. This pain shoudl improve 
over the next couple of weeks. You were discharged with 
oxycodone. If your pain is worsening or not resolving please 
discuss with PCP or present to ED. Of note, this medication will 
make you tired. Do not drive or drink alcohol while on this 
medication.
 
Followup Instructions:
___